US05399575
4-{4- [2-(4-Pyridinyl)-ethenyl]-phenylmethoxy}-benzonitrile
A solution of 9.8 g (40 mmol) 4-(4-formylphenylmethoxy)-benzonitrile, 4 ml (40 mmol) 4-methylpyridine and 4 ml acetic acid anhydride is heated to 120° C. for 18 h. One mixes with water, extracts with dichloromethane, dries the extract, evaporates and triturates with ether. One isolates 6.1 g of title compound (49% of theory) of the m.p. 149°-150° C.

reactant | 4-(4-formylphenylmethoxy)-benzonitrile | 40 mmol, 9.8 g | C(=O)C1=CC=C(C=C1)COC1=CC=C(C#N)C=C1 | C15H11NO2
reactant | 4-methylpyridine | 40 mmol, 4 ml | CC1=CC=NC=C1 | C6H7N
reactant | acetic acid anhydride | 4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-{4- [2-(4-Pyridinyl)-ethenyl]-phenylmethoxy}-benzonitrile | 6.1 g, 49% | N1=CC=C(C=C1)C=CC1=CC=C(C=C1)COC1=CC=C(C#N)C=C1 | C21H16N2O
